US07285563B2
5-Azidomethyl-2-(trifluoromethyl)pyrimidine
To a solution of 5-(hydroxymethyl)-2-(trifluoromethyl)pyrimidine (Description 119; 580 mg, 3.26 mmol) and triethylamine (0.55 ml, 3.91 mmol) in anhydrous dichioromethane (15 ml) cooled in an ice-bath was added dropwise methanesulfonyl chloride (0.28 ml, 3.59 mmol), and the resulting mixture stirred at room temperature for 1 hour. The mixture was washed with water and sat NaCl, dried over Na2SO4, filtered and evaporated. The residue was dissolved in anhydrous N,N-dimethylformamide (15 ml), sodium azide (233 mg, 3.59 mmol) was added and the resulting mixture stirred at room temperature overnight. The mixture was poured into water (100 ml) and extracted with EtOAc (3×15 ml). The combined EtOAc layers were washed with water (2×50 ml), saturated NaCl (25 ml), dried over Na2SO4, filtered and evaporated to give the title compound (660 mg, 100%).

reactant | 5-(hydroxymethyl)-2-(trifluoromethyl)pyrimidine | 3.26 mmol, 580 mg | OCC=1C=NC(=NC1)C(F)(F)F | C6H5F3N2O
reactant | triethylamine | 3.91 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.59 mmol, 0.28 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 3.59 mmol, 233 mg | [N-]=[N+]=[N-].[Na+]
solvent | dichioromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 5-Azidomethyl-2-(trifluoromethyl)pyrimidine | 660 mg, 100% | N(=[N+]=[N-])CC=1C=NC(=NC1)C(F)(F)F | C6H4F3N5
